US05665777
To a 0° C. solution in THF (200 mL) of N-[2-tert-butyloxycarbonylmethyl-4-(4-(4-cyanophenyl)phenoxy)butanoyl]-(S)-(-)-4-benzyl-2-oxazolidinone (7.05 g, 12.7 mmol) was added 30% aqueous H2O2 (3.0 mL, 50.8 mmol) and 1M aqueous LiOH (20.3 mL, 20.3 mmol) and the reaction mixture was stirred for one hour. The reaction mixture was quenched with saturated aqueous NaHSO3 and diluted with dichloromethane. The aqueous phase was made basic with aqueous 2N NaOH and extracted twice with dichloromethane. The organic extracts were discarded and the aqueous phase was cooled to 0° C. and acidified with aqueous 2N HCl. The aqueous phase was extracted with dichloromethane and THF/dichloromethane. The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. Chromatography on silica gel (dichloromethane/10% THF/1% methanol) gave 2-tert-butyloxycarbonylmethyl-4-[4-(4-cyanophenyl)phenoxy]butanoic acid (2.6 g, 52%).

reactant | N-[2-tert-butyloxycarbonylmethyl-4-(4-(4-cyanophenyl)phenoxy)butanoyl]-(S)-(-)-4-benzyl-2-oxazolidinone | 12.7 mmol, 7.05 g | C(C)(C)(C)OC(=O)CC(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)CCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C33H34N2O6
reactant | H2O2 | 50.8 mmol, 3.0 mL | OO | H2O2
reactant | LiOH | 20.3 mmol, 1M, 20.3 mL | [Li+].[OH-]
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-tert-butyloxycarbonylmethyl-4-[4-(4-cyanophenyl)phenoxy]butanoic acid | 2.6 g, 52% | C(C)(C)(C)OC(=O)CC(C(=O)O)CCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C23H25NO5
